US05324833
Z-Gln(Trt)-OH
1.1 ml of acetic anhydride (12 mmol) are added to a mixture of 2.8 g of Z-Gln-OH (10 mmol), 5.2 g of triphenylmethanol (20 mmol) in 30 ml of acetic acid, and the mixture is stirred at 50° for 15 minutes. Then 0.05 ml of conc. sulfuric acid (about 1 mmol) is added, resulting in a clear yellow solution after a few minutes. After 2 hours, the solution is added dropwise to 500 ml of water, while stirring and cooling in ice, and the precipitate is filtered off and thoroughly washed with water. The moist material is dissolved in ethyl acetate, the aqueous phase is separated off, and the organic phase is washed once with a saturated aqueous sodium chloride solution, dried over sodium sulfate and concentrated under reduced pressure to 20 g. Z-Gln(Trt)-OH is crystallized by addition of hexane in portions, m.p. 161°-162°.

reactant | acetic anhydride | 12 mmol, 1.1 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | Z-Gln-OH | 10 mmol, 2.8 g | N([C@@H](CCC(N)=O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C13H16N2O5
reactant | triphenylmethanol | 20 mmol, 5.2 g | C1(=CC=CC=C1)C(O)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H16O
reactant | sulfuric acid | about 1 mmol, 0.05 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | water | 500 ml | O | H2O
product | Z-Gln(Trt)-OH | N([C@@H](CCC(NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C32H30N2O5
